data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6400,"CC(=O)C[CH:1]([H:2])[C:3](C1=CC=C(S(C)(=O)=O)C=C1)=[NH+:4]C1=CC=C(F)C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10361,"CCC1C[CH:1]2C(CC1CCC1=CC=CC=C1)[S+:2]2C.CSC.F[B-](F)(F)F.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8424,"C[NH:1][S+:2](C)O|(1, 2)"
train,pmechdb_split_0,0,6409,"CC[N:1](CC)[CH:2](C)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1644,"CC(=CC1=CSC(C)=N1)[CH:1]=[O+:2][Ti-]([O]C(C)C)([O]C(C)C)([O]C(C)C)[O]C(C)C.CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH2][CH:3]=[CH2:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8057,"CC(OC1CC2CC(C)(O)C(O)CC2(C)C2(C1)OCCO2)=[O+:1][H:2].O=C(C1=CC=CC(Cl)=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8711,"C1=CC=NC=C1.CC12CCC(O)CC1=CCC1C2CCC2(C)C1CCC2[C:1](C)([OH2+:2])[O:3]CCO.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9333,"C1CCC2=[NH+]CCCN2CC1.CC1(C)C[C:1](C)=[C:2]([O-:3])C2OC21.[CH2:4]=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4133,"C[N:1](C)N.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5325,"[OH:1][OH:2].[SH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4859,"C[C:1](=[CH2:2])[N:3]1CCCC1.[CH2:4]=[CH:5][C:6]#[N:7]|(3, 1);((1, 2), 4);((4, 5), 6);((6, 7), 7)"
train,pmechdb_split_0,0,3089,"C=CC(=O)OC.C=CC(=O)OCC.CC(C)(C)[O-:1].CO[C:2]([CH:3](C1=CC=CC=C1)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,3817,"CN(C)[CH:1]([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7488,"C[C:1]#[C:2]C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9224,"FC(F)(F)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,3529,"CC(C)NC(C)C.CCC[CH:1]=[O+:2][Li-][N:3](C(C)(C)C)[CH:4]=[C:5](C)[Si](CC)(CC)CC|(3, 4);((4, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8464,"C1CCOC1.CCC1(O)C(=O)OCC2=C1C=C1N(CCC13OCC[O:1]3)C2=O.O.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5501,"C[S:1][S:2]C.SCCCC[S-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,13,"C[P+](C)(C)[CH:1]=[CH2:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2097,"C=C[CH+:1][CH2:2][H:3].O=P(O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2431,"C=C[C:1](Cl)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4402,"CN[C:1](OC)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3765,"CC(=O)[O][Sn-]([Br])([Br])([Br])[Br].CC1=CC=C(S(=O)(=O)OC2=CC=C(C(C[CH:1]=[CH2:2])[O+:3]=[CH:4]CCC3=CC=C(OCC4=CC=CC=C4)C=C3)C=C2)C=C1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,2652,"COC1=C(OC)C=C2C(=C1)OC1=C(C=CC=C1OCC1=CC=CC=C1)C2CN(C)C(=O)C[S+](C)[O-:1].O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4458,"C=CC[C:1]1=[C:2]([O-:3])CCCC1=O.C[C:4](=[O:5])[CH:6]=[CH2:7]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3200,"C=C[C:1](OC(C)=O)=[OH+:2].CC[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,981,"BrC(Br)Br.COC(=O)CCCC#CCC#C[CH2:1][O:2][P+:3](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Br-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,5227,"C[Si](C)(C)C=[C:1]=[CH2:2].[Fe-][O+:3]=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1014,"C=C=C(C1CCC2CCCCC2([O:1][Na])O1)[Si](C)(C)C.OB1C2CCCC1CCC2.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4194,"C1=CC=C2C(=C1)C[C:1]2=[C:2]1CC2=C1C=CC=C2.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3940,"CS(=O)(=O)O[Si-:1](C)(C)(C)[O+:2](C)C|((1, 2), 2)"
train,pmechdb_split_0,0,8206,"CC(=O)[O:1][H:2].CC(O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8751,"CO[C:1](OC)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2446,"CC(C)[C:1]1([H:2])C=CC=C[C+:3]1CBr.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7761,"CP(C)(=O)[CH2-:1].C[CH:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10272,"CN(C)[CH+:1][S-:2]|(2, 1)"
train,pmechdb_split_0,0,8565,"C=CC(C)C(O[B-]1([O+:1](CCN(CCO)CCO)[H:2])OC(C)(C)C(C)(C)O1)C1=CC=CC=C1.OCC[N:3](CCO)CCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,615,"C1=CC=[N+:1]([H:2])C=C1.CC(C1CCC2C3CC=C4CC(O)CCC4(C)C3CCC12C)=[O:3].OCCO.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7619,"C[O:1][CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7585,"[CH:1](=[NH2+:2])[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7581,"CCOC(=O)C(C(=O)OCC)C(C1=CC=CC=C1)[CH:1]=[C:2](OCC)[O-:3].CO.C[O+:4]([Na])[H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3855,"[H:1][BH3-:2].[O-]CCC[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6505,"C1C[NH:1]CCO1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7279,"C1=CC=C(CC(N2CCCCC2)[OH:1])C=C1.CC(=O)[O:2][H:3].COC(=O)CC(=O)O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1528,"CCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
